US05821246
After appropriate repetition of the previous steps, sodium methoxide (11 g) was added portionwise to a stirred mixture of 7-chloro-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline (20 g) and DMSO (200 ml) which was cooled in a water bath to approximately 18° C. The resultant mixture was stirred at ambient temperature for 4 hours. The mixture was poured slowly onto a mixture of ice and water. The precipitate was isolated to give 7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline (16.5 g) which was used without further purification.

reactant | sodium methoxide | 11 g | C[O-].[Na+]
reactant | 7-chloro-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline | 20 g | ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)[N+](=O)[O-] | C21H16ClN5O3
reactant | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline | 16.5 g, 30% yield | COC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)[N+](=O)[O-] | C22H19N5O4
